US04863935
N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine (675 mg) and D-proline methylester (0.18 g) were subjected to similar reactions to those described in References 2 and 4 to give 2-[(R)-2-methoxycarbonylpyrrolidino]carbonylthioethylamine (crude formate: 336 mg). The product was dissolved in anhydrous methanol (6 ml). To the solution were added triethylamine (1.01 ml) and mitomycin A (338 mg: 0.8 molar equivalent). The solution was then treated in a similar manner to that described in Example 1 to obtain Compound 32 (286 mg) in the form of grayish blue powders with a yield of 43%.

reactant | N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine | 675 mg | C1(=CC=CC=C1)C(NCCSC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2O4S
reactant | D-proline methylester | 0.18 g | COC([C@@H]1NCCC1)=O | C6H11NO2
product | 2-[(R)-2-methoxycarbonylpyrrolidino]carbonylthioethylamine | 336 mg | COC(=O)[C@@H]1N(CCC1)C(=O)SCCN | C9H16N2O3S
